US04076712
b. 2,4-Dimethylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one
3.8 g. of 2-methylpyrazolo[ 1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one are added to a solution of 1 g. of potassium hydroxide in 50 ml. of methanol and the mixture is stirred at room temperature for 2 hours. The potassium salt of 2-methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one is filtered off and suspended in 25 ml. of diethyleneglycol dimethyl ether. 5 g. of methyl iodide are added and the mixture is stirred for 1 hour and then filtered off, and the precipitated 2,4-dimethylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one is recrystallized with methanol containing 10% water, yield: 2.1 g. (50%); m.p. 241.9°.

reactant | 2-methylpyrazolo[ 1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | CC1=NN2C(NC3=C(C2=O)C=CC=N3)=C1 | C10H8N4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | CO | CH4O
product | 2,4-Dimethylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | CC1=NN2C(N(C3=C(C2=O)C=CC=N3)C)=C1 | C11H10N4O
